US07129238B2
(RS)-Benzo[1,3]dioxol-5-yl-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-2-benzo[1,3]dioxol-5-yl-N-(4-cyano-benzyl)-2-methoxy-acetamide. Light yellow solid.

reactant | (RS)-Benzo[1,3]dioxol-5-yl-methoxy-acetic acid | O1COC2=C1C=CC(=C2)C(C(=O)O)OC | C10H10O5
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-2-benzo[1,3]dioxol-5-yl-N-(4-cyano-benzyl)-2-methoxy-acetamide | O1COC2=C1C=CC(=C2)C(C(=O)NCC2=CC=C(C=C2)C#N)OC | C18H16N2O4
